US04960897
Preparation of 2-(1-bromomethylvinyl)-6-chloropyridine (Compound No. I-4)
A mixture of 1.0 g of 2-chloro-6-(1-chloromethylvinyl) pyridine, 2.0 g of potassium bromide, 5 ml of 2-butanone and 5 ml of N,N-dimethylformamide was stirred at 100° C. for 12 hours. After the reaction mixture was cooled to room temperature, water was added thereto to extract the mixture with ethyl acetate. The extract was subsequently washed with an aqueous solution of 10% sodium thiosulfate, water, saturated saline solution in that order, and dried over anhydrous magnesium sulfate. After distilling off the solvent, the residue was purified by silica gel column chromatography (eluted with n-hexane - ethyl acetate 25:1) to obtain 0.80 g of the objective compound.

reactant | 2-chloro-6-(1-chloromethylvinyl) pyridine | 1.0 g | ClC1=NC(=CC=C1)C(=C)CCl | C8H7Cl2N
reactant | potassium bromide | 2.0 g | [Br-].[K+]
reactant | 2-butanone | 5 ml | CC(CC)=O | C4H8O
reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-(1-bromomethylvinyl)-6-chloropyridine | 0.80 g | BrCC(=C)C1=NC(=CC=C1)Cl | C8H7BrClN
